US08012998B2
a) 1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanone (IX-1)
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (32.78 g, 0.138 mol) in CH2Cl2 (50 mL) was added dropwise, over a 30 minutes period, to a stirred solution of (E)-4-(3,4-dichloro-phenyl)-but-3-en-2-one (19.80 g, 0.092 mol) and trifluoroacetic acid (1.05 mL, 0.009 mol) in CH2Cl2 (100 mL) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, CH2Cl2/MeOH 98:2) afforded 28.3 g (88%) of the title compound as a yellow oil. ES-MS m/e: 348.2 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 0.138 mol, 32.78 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | (E)-4-(3,4-dichloro-phenyl)-but-3-en-2-one | 0.092 mol, 19.80 g | ClC=1C=C(C=CC1Cl)/C=C/C(C)=O | C10H8Cl2O
reactant | trifluoroacetic acid | 0.009 mol, 1.05 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanone | 28.3 g, 88% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)=O | C19H19Cl2NO
